US07994202B2
3-Phenyl-1,4,5,6,7,8-hexahydrocyclohepta[c]pyrazole
Lithium hexamethyldisilazane (10 mL, 1.6 M tetrahyfuran solution, manufactured by Sigma-Aldrich Corp.) was added to a solution of cycloheptanone (561 mg, manufactured by Tokyo Chemical Industry Co., Ltd.) in toluene (10 mL, manufactured by Kanto Chemical Co., Inc.) at 0° C., and the mixture was stirred for one minute. Benzoyl chloride (90 μL, manufactured by Wako Pure Chemical Industries, Ltd.) was then added thereto at the same temperature, and the mixture was stirred for one hour. Subsequently, acetic acid (5 mL, manufactured by Wako Pure Chemical Industries, Ltd.) and hydrazine monohydrate (1 mL, manufactured by Tokyo Chemical Industry Co, Ltd.) were added to the reaction solution, and the mixture was stirred for 3 hours. A saturated aqueous solution of sodium carbonate (30 mL) was added to the reaction solution, and the mixture was extracted with (3×20 mL), washed with brine (40 mL), and dried (MgSO4). The solvent was then evaporated. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1), to give 230 mg of the title compound. LC-MS: HPLC retention time 1.57 minutes, m/z 213 (M+H), condition C-1.

reactant | Lithium hexamethyldisilazane | 1.6 M, 10 mL | C[Si](N[Si](C)(C)C)(C)C.[Li]
reactant | cycloheptanone | 561 mg | C1(CCCCCC1)=O | C7H12O
reactant | Benzoyl chloride | 90 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | hydrazine monohydrate | 1 mL | O.NN
reactant | sodium carbonate | 30 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 3-Phenyl-1,4,5,6,7,8-hexahydrocyclohepta[c]pyrazole | 230 mg | C1(=CC=CC=C1)C=1C2=C(NN1)CCCCC2 | C14H16N2
